US08034812B2
Production of N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (743 mg, 2.26 mmol), 3-amino-4-methylphenol (446 mg, 3.62 mmol), potassium carbonate (782 mg, 5.66 mmol) and N,N-dimethylformamide (5.0 mL) was stirred using a microwave synthesizer at 180° C. for 30 min. The solvent was evaporated under reduced pressure, ethyl acetate, tetrahydrofuran and water were added to the residue, and the aqueous layer was extracted three times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=17/83→75/25) to give the title compound (424 mg, 58%) as a brown powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 2.26 mmol, 743 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 3-amino-4-methylphenol | 3.62 mmol, 446 mg | NC=1C=C(C=CC1C)O | C7H9NO
reactant | potassium carbonate | 5.66 mmol, 782 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 424 mg, 58% | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
